US07030128B2
2-Bromo-6-(thien-3-yl)pyridine (2.20 g, 9.1 mmol) was coupled to 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine (9.0 mmol) by the method of Example 1. Purification by chromatography on silica gel eluting with isohexane on a gradient of ethyl acetate (10-80%) and trituration with isohexane followed by crystallisation from ethyl acetate-isohexane gave 3-[6-(thien-3-yl)pyridin-2-yl]-7-trifluoromethyl-imidazo[1,2-α]pyrimidine (350 mg) as a pale yellow solid: δH (400 MHz, CDCl3) 7.40 (1H, d, J 7), 7.48-7.50 (1H, m), 7.60 (1H, d, J 8), 7.69-7.73 (2H, m), 7.86 (1H, dd, J 8 and 8), 7.92-7.94 (1H, m), 8.54 (1H, s), 10.56 (1H, d, J 7); m/z (ES+) 347 (M++H).

reactant | 2-Bromo-6-(thien-3-yl)pyridine | 9.1 mmol, 2.20 g | BrC1=NC(=CC=C1)C1=CSC=C1 | C9H6BrNS
reactant | 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine | 9.0 mmol | C(CCC)[Sn](C1=CN=C2N1C=CC(=N2)C(F)(F)F)(CCCC)CCCC
product | 3-[6-(thien-3-yl)pyridin-2-yl]-7-trifluoromethyl-imidazo[1,2-α]pyrimidine | 350 mg | S1C=C(C=C1)C1=CC=CC(=N1)C1=CN=C2N1C=CC(=N2)C(F)(F)F | C16H9F3N4S
